US08304557B2
To a solution of 3-(1-cyanocyclopropyl)-N-[3-({2-[(trifluoroacetyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]benzamide (450 mg, 0.89 mmol) in ethanol (8.0 mL) was added 1N aqueous sodium hydroxide solution (8.9 mL), and the mixture was stirred at 45° C. for 8 hr. Water (100 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (200 mL). The organic layer was washed with saturated brine (100 mL) and dried over anhydrous sodium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH silica gel, ethyl acetate/methanol=100/0→80/20), and fractions containing the desired product were concentrated under reduced pressure to give N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-(1-cyanocyclopropyl)benzamide (200 mg, 55%) as a colorless solid.

reactant | 3-(1-cyanocyclopropyl)-N-[3-({2-[(trifluoroacetyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]benzamide | 0.89 mmol, 450 mg | C(#N)C1(CC1)C=1C=C(C(=O)NC2=CC(=CC=C2)OC=2C=CC=3N(C2)C=C(N3)NC(C(F)(F)F)=O)C=CC1 | C26H18F3N5O3
reactant | sodium hydroxide | 1N, 8.9 mL | [OH-].[Na+]
reactant | Water | 100 mL | O | H2O
solvent | ethanol | 8.0 mL | C(C)O | C2H6O
product | N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-(1-cyanocyclopropyl)benzamide | 200 mg, 55% | NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C2(CC2)C#N)=O)C1 | C24H19N5O2
